US05401752
To 20 ml of THF in which 0.83 g of lithium aluminum hydride is suspended, 20 ml of a solution containing 0.32 g of 3-(4-t-butylphenyl)-2-methyl-1-oxo-1,2,3,4-tetrahydroisoquinoline in THF was added and the mixture was heated to reflux for 4 hours. After the reaction, 10 ml of 10% aqueous sodium hydroxide solution was gradually added to the resulting mixture cooled in iced water and the generated precipitates were removed by filtration through Celite. After concentrating the filtrate, the aqueous layer was extracted with ethyl acetate (40 ml×2). After washing the combined organic layers with brine (50 ml×1), the organic layers were dried over anhydrous magnesium sulfate. After evaporating the solvent under reduced pressure, the residue was purified by silica gel column chromatography [hexane/ethyl acetate (6/1)] to obtain 0.24 g of 3-(4-t-butylphenyl)-2-methyl-1,2,3,4-tetrahydroisoquinoline.

reactant | lithium aluminum hydride | 0.83 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3-(4-t-butylphenyl)-2-methyl-1-oxo-1,2,3,4-tetrahydroisoquinoline | 0.32 g | C(C)(C)(C)C1=CC=C(C=C1)C1N(C(C2=CC=CC=C2C1)=O)C | C20H23NO
reactant | sodium hydroxide | 10 ml | [OH-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 3-(4-t-butylphenyl)-2-methyl-1,2,3,4-tetrahydroisoquinoline | 0.24 g | C(C)(C)(C)C1=CC=C(C=C1)C1N(CC2=CC=CC=C2C1)C | C20H25N
